US04737511
3-Ethyl-4-(4-fluoro-3-nitrophenyl)-1,5-dihydro-2H-pyrrol-2-one
Nitric acid (70%, 14 mL, 0.22 mol) is added dropwise to a solution of 3-ethyl-4-(4-fluorophenyl)-1,5-dihydro -2H-pyrrol-2-one (37.6 g, 0.18 mol) in concentrated sulfuric acid (140 mL) while the temperature is maintained at 0°-5° C. The mixture is stirred for 2 hr at 0° C., and then is poured onto 2500 g of ice. The resulting precipitate is collected by filtration, and washed with water until the washes are neutral. Recrystallization of the solid from ethanol followed by drying under vacuum at 50° C. for 24 hr provides the title compound.

reactant | Nitric acid | 0.22 mol, 14 mL | [N+](=O)(O)[O-] | HNO3
reactant | 3-ethyl-4-(4-fluorophenyl)-1,5-dihydro -2H-pyrrol-2-one | 0.18 mol, 37.6 g | C(C)C=1C(NCC1C1=CC=C(C=C1)F)=O | C12H12FNO
solvent | sulfuric acid | 140 mL | S(O)(O)(=O)=O | H2O4S
product | 3-Ethyl-4-(4-fluoro-3-nitrophenyl)-1,5-dihydro-2H-pyrrol-2-one | C(C)C=1C(NCC1C1=CC(=C(C=C1)F)[N+](=O)[O-])=O | C12H11FN2O3
